US09062028B2
Step A. Ethyl 2-(4-bromo-1H-pyrazol-1-yl)-2-phenylacetate
The title compound was prepared using a procedure analogous to methyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzoate except that methyl 3-(bromomethyl)benzoate was replaced with ethyl 2-bromo-2-phenylacetate. LCMS, [M+H]+=308.9. 1H NMR (400 MHz, CDCl3) δ 7.52 (s, 1H), 7.45-7.36 (m, 6H), 6.14 (s, 1H), 4.34-4.23 (m, 2H), 1.27 (t, J=7.1 Hz, 3H).

reactant | methyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzoate | BrC=1C=NN(C1)CC=1C=C(C(=O)OC)C=CC1 | C12H11BrN2O2
reactant | methyl 3-(bromomethyl)benzoate | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | ethyl 2-bromo-2-phenylacetate | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
product | Ethyl 2-(4-bromo-1H-pyrazol-1-yl)-2-phenylacetate | BrC=1C=NN(C1)C(C(=O)OCC)C1=CC=CC=C1 | C13H13BrN2O2
